** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/pseudores/pseudores_test.sch
**.subckt pseudores_test
XM1 vbias vbias net1 0 nfet_03v3 L=1u W=50u nf=50 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 vd vbias net1 0 nfet_03v3 L=50u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
I0 0 vbias 100n
I1 0 vd DC 0 AC 1 0
V1 net1 0 1
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical


.ac dec 1000 1 10G

**** end user architecture code
**.ends
.end
